### PR TITLE
refactor: retire setoids

### PR DESCRIPTION
**Pull request by Kaptch**
## Description

Pass over deprecating equiv in favor of eq. The remaining task is a small cleanup. I've tried to keep this one minimal by preserving the proofs as much as possible, while eliminating equiv in signatures. I'll make a pass over proofs in a separate PR.

### CODE REVIEW

**Comment by Kaptch** [comment]
Short summary: deprecated OFE.Equiv, maps to/from equality, congruence rules wrt OFE.Equiv, then went fixing the downstream proofs, until none of the code is using those. At this point, OFE.Equiv should be safely deleted (can also do it now, but I would wait a week or two in case any downstream project continues to use it). 
I tried to preserve all signatures by just changing OFE.Equiv to equality. The only naming changes come from congruence rules for BigOps, because they combine extensionality and congruence. There, I made a pass to merge some lemmas. 

The proofs are mostly the same, and I'll make a separate pass to use simp/rw in them instead of manual chains of equalities. 
I can also split the PR a bit, but it seems that is the cleanest way to change all signatures in one go to avoid to_eq/from_eq casting.

**Comment by markusdemedeiros** [comment]
Don't worry about breaking downstream projects (a week or two changes nothing since they should be using the versioned releases anyways). I'll do my best to review this promptly!

File: Iris/Iris/Algebra/Lib/DFracAgree.lean [hunk 1]
```diff
@@ -46,30 +46,28 @@ instance mk_exclusive {a : A} : Exclusive (mk (.own (1 : Qp)) a) := one_exclusiv
 
 @[rocq_alias to_dfrac_agree_discrete]
 instance mk_discrete {d : DFrac} {a : A} [DiscreteE a] : DiscreteE (mk d a) :=
-  ⟨fun h n => ⟨(is_discrete.discrete h.1) n, (Agree.toAgree.is_discrete.discrete h.2) n⟩⟩
+  ⟨fun h => OFE.eq_dist.mpr <| by
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/Lib/DFracAgree.lean]:
```suggestion
  ⟨fun h => OFE.eq_dist.mpr <| fun n => ⟨(is_discrete.discrete h.1).dist, (Agree.toAgree.is_discrete.discrete h.2).dist⟩⟩
```

File: Iris/Iris/Algebra/BigOp.lean [hunk 2]
```diff
@@ -110,41 +112,39 @@ theorem bigOpL_dist {Φ Ψ : Nat → A → M} {l : List A} {n : Nat}
...
 
 @[rocq_alias big_opL_snoc]
-theorem bigOpL_snoc_eqv (Φ : Nat → A → M) (l : List A) (a : A) :
-    ([^ op list] k ↦ x ∈ l ++ [a], Φ k x) ≡ op ([^ op list] k ↦ x ∈ l, Φ k x) (Φ l.length a) := by
-  refine .trans (bigOpL_append_eqv Φ l [a]) ?_
-  refine .trans ?_ (op_congr_right (op_right_id (op := op)))
-  simp
+theorem bigOpL_snoc_eq (Φ : Nat → A → M) (l : List A) (a : A) :
+    ([^ op list] k ↦ x ∈ l ++ [a], Φ k x) = op ([^ op list] k ↦ x ∈ l, Φ k x) (Φ l.length a) := by
+  rw [bigOpL_append_eq]; simp [op_right_id]
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/BigOp.lean]:
```suggestion
  simp [bigOpL_append_eq, op_right_id]
```

Comment (markusdemedeiros) [reply Iris/Iris/Algebra/BigOp.lean]: Perhaps?

File: Iris/Iris/Algebra/BigOp.lean [hunk 3]
```diff
@@ -386,116 +378,117 @@ theorem bigOpM_gen_proper_2 {A : Type _} {B : Type _} {R : M → M → Prop}
...
 @[rocq_alias big_opM_proper_2]
-theorem bigOpM_eqv_strong [OFE A] {Φ Ψ : K → A → M} {m1 m2 : M' A} (hm : ∀ k, get? m1 k = get? m2 k)
-    (hf : ∀ {k y1 y2}, get? m1 k = some y1 → get? m2 k = some y2 → y1 ≡ y2 → Φ k y1 ≡ Ψ k y2) :
-    ([^ op map] k ↦ x ∈ m1, Φ k x) ≡ ([^ op map] k ↦ x ∈ m2, Ψ k x) :=
-  bigOpM_gen_proper_2 id equiv_eqv op_proper (fun k => by rw [hm k]) fun h1 h2 =>
-    hf h1 h2 (by rw [hm _] at h1; exact (h1.symm.trans h2 |> Option.some.inj) ▸ .rfl)
+theorem bigOpM_eq_strong [OFE A] {Φ Ψ : K → A → M} {m1 m2 : M' A} (hm : ∀ k, get? m1 k = get? m2 k)
+    (hf : ∀ {k y1 y2}, get? m1 k = some y1 → get? m2 k = some y2 → y1 = y2 → Φ k y1 = Ψ k y2) :
+    ([^ op map] k ↦ x ∈ m1, Φ k x) = ([^ op map] k ↦ x ∈ m2, Ψ k x) :=
+  bigOpM_gen_proper_2 id ⟨fun _ => rfl, Eq.symm, Eq.trans⟩ (· ▸ · ▸ rfl) (fun k => by rw [hm k])
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/BigOp.lean]:
```lean4
⟨fun _ => rfl, Eq.symm, Eq.trans⟩
```
Extract to definition (probably already exists)

File: Iris/Iris/Instances/UPred/Instance.lean [hunk 4]
```diff
@@ -753,7 +753,7 @@ theorem intuitionistically_ownM (a : M) [CoreId a] : □ ownM a ⊣⊢ ownM a :=
   refine ⟨intuitionistically_elim, ?_⟩
   refine (intuitionistically_ownM_core a).trans ?_
   refine intuitionistically_mono ?_
-  exact (ownM_eqv (core_eqv_self a).symm).mpr
+  simp only [core_eqv_self, BIBase.Entails.rfl]
```
Comment (markusdemedeiros) [inline Iris/Iris/Instances/UPred/Instance.lean:753]:
```suggestion
  simp [core_eqv_self, BIBase.Entails.rfl]
```

File: Iris/Iris/Instances/UPred/Instance.lean [hunk 5]
```diff
@@ -778,13 +778,15 @@ instance ownM_timeless (a : M) [OFE.DiscreteE a] : BI.Timeless (ownM a) where
...
+      .inr ⟨y', OFE.Dist.of_eq (Hx.trans
+        (congrArg (CMRA.op · _) (OFE.DiscreteE.discrete (Ha'.symm.le n.zero_le)).symm))⟩
 
 @[rocq_alias uPred.ownM_persistent]
 instance ownM_persistent (a : M) [CoreId a] : Persistent (ownM a) where
   persistent := by
     refine (persistently_ownM_core a).trans ?_
-    exact persistently_mono (ownM_eqv (core_eqv_self a)).mp
+    refine persistently_mono ?_
+    simp only [core_eqv_self, BIBase.Entails.rfl]
```
Comment (markusdemedeiros) [inline Iris/Iris/Instances/UPred/Instance.lean:786]:
```suggestion
    simp [core_eqv_self, BIBase.Entails.rfl]
```

File: Iris/Iris/Algebra/Csum.lean [hunk 6]
```diff
@@ -26,7 +26,7 @@ namespace Csum
 
 /-! ## OFE -/
 
-@[simp, rocq_alias csum_equiv] def Equiv [OFE α] [OFE β] : Csum α β → Csum α β → Prop
+@[simp, rocq_alias csum_equiv, deprecated "OFE is Leibniz; use `congrArg`/`rw`" (since := "2026-07")] def Equiv [OFE α] [OFE β] : Csum α β → Csum α β → Prop
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/Csum.lean]: No need to deprecate at this point. We can just``#rocq_ignore`` this.

File: Iris/Iris/Algebra/Excl.lean [hunk 7]
```diff
@@ -23,7 +23,7 @@ namespace Excl
 open OFE
 
 /-! ## COFE -/
-@[simp, rocq_alias excl_equiv] protected def Equiv [OFE α] : Excl α → Excl α → Prop
+@[simp, rocq_alias excl_equiv, deprecated "OFE is Leibniz; use `congrArg`/`rw`" (since := "2026-07")] protected def Equiv [OFE α] : Excl α → Excl α → Prop
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/Excl.lean]: Also consider just deleting

File: Iris/Iris/Algebra/Heap.lean [hunk 8]
```diff
@@ -98,9 +100,10 @@ theorem singleton_dist [LawfulPartialMap M K] [DecidableEq K] [OFE V] {n : Nat}
   simp only [LawfulPartialMap.get?_singleton]
   split <;> simp [h]
 
+@[deprecated "OFE is Leibniz; use `congrArg`/`rw`" (since := "2026-07")]
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/Heap.lean]: Also consider deleting

File: Iris/Iris/Algebra/Heap.lean [hunk 9]
```diff
@@ -593,7 +595,8 @@ def mapO [OFE α] [OFE β] (f : α -n> β) : OFE.Hom (H α) (H β) where
   f := map H f
   ne := inferInstance
 
-theorem map_ext [OFE α] [OFE β] {f g : α -> β} (heq : f ≡ g) : map H f m ≡ map H g m := by
+@[deprecated "OFE is Leibniz; use `congrArg`/`rw`" (since := "2026-07")]
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/Heap.lean]: Also consider deleting

File: Iris/Iris/BI/BigOp/BigSepList.lean [hunk 10]
```diff
@@ -437,7 +433,10 @@ theorem bigSepL_replicate {P : PROP} {l : List A} :
 @[rocq_alias big_sepL_zip_seq]
 theorem bigSepL_zip_seq {Φ : A × Nat → PROP} {n : Nat} {l : List A} :
     ([∗list] xy ∈ l.zipIdx n, Φ xy) ⊣⊢ [∗list] i ↦ x ∈ l, Φ (x, n + i) :=
-  equiv_iff.mp <| bigOpL_zipIdx_eqv Φ n l
```
Comment (markusdemedeiros) [inline Iris/Iris/BI/BigOp/BigSepList.lean:440]: Can this not be done via `bigOpL_zipIdx_eqv` anymore?

File: Iris/Iris/BI/BigOp/BigSepMap.lean [hunk 11]
```diff
@@ -472,7 +470,14 @@ theorem bigSepM_sep_zipWith {A B C : Type _}
     (hdom : ∀ k, (get? m₁ k).isSome ↔ (get? m₂ k).isSome) :
     ([∗map] k ↦ xy ∈ zipWith f m₁ m₂, Φ₁ k (g₁ xy) ∗ Φ₂ k (g₂ xy)) ⊣⊢
       ([∗map] k ↦ x ∈ m₁, Φ₁ k x) ∗ [∗map] k ↦ y ∈ m₂, Φ₂ k y :=
-  equiv_iff.mp <| bigOpM_sep_zipWith_eqv Φ₁ Φ₂ hg₁ hg₂ hdom
```
Comment (markusdemedeiros) [inline Iris/Iris/BI/BigOp/BigSepMap.lean:475]: Can this not be done via `bigOpM_sep_zipWith_eqv`? New proof is quite a bit worse.

Comment (markusdemedeiros) [reply Iris/Iris/BI/BigOp/BigSepMap.lean:475]: At the very least, move ` BiEntails.of_eq` into the `by`, and try separating out the nested `<;> {...` block into a helper function.

File: Iris/Iris/BI/MonPred.lean [hunk 12]
```diff
@@ -133,14 +133,14 @@ def ofSig :
 @[rocq_alias sig_monPred_ne]
 theorem ofSig_ne : OFE.NonExpansive (ofSig (I := I) (PROP := PROP)) := ofSig.ne
 
-@[rocq_alias sig_monPred_proper]
+@[rocq_alias sig_monPred_proper, deprecated "OFE is Leibniz; use `congrArg`/`rw`" (since := "2026-07")]
```
Comment (markusdemedeiros) [inline Iris/Iris/BI/MonPred.lean]: See above (many times in this file)

File: Iris/Iris/Algebra/UPred.lean [hunk 13]
```diff
@@ -87,7 +87,7 @@ instance : OFE (UPred M) where
 theorem uPred_ne {P : UPred M} {n} {m₁ m₂ : ValidAt M n} (H : (m₁ : M) ≡{n}≡ (m₂ : M)) : P n m₁ ↔ P n m₂ :=
   ⟨fun H' => P.mono H' H.to_incN .refl, fun H' => P.mono H' H.symm.to_incN .refl⟩
 
-@[rocq_alias uPred_proper]
+@[rocq_alias uPred_proper, deprecated "OFE is Leibniz; use `congrArg`/`rw`" (since := "2026-07")]
 theorem uPred_proper {P : UPred M} {n} {m₁ m₂ : ValidAt M n} (H : (m₁ : M) ≡ (m₂ : M)) : P n m₁ ↔ P n m₂ :=
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/UPred.lean]: See above

File: Iris/Iris/Algebra/Updates.lean [hunk 14]
```diff
@@ -28,27 +28,33 @@ section updates
 
 variable [CMRA α] [CMRA β] (f : α → β) (g : β → α)
 
+@[deprecated "OFE is Leibniz; use `congrArg`/`rw`" (since := "2026-07")]
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/Updates.lean]: See above

File: Iris/Iris/Algebra/Monoid.lean [hunk 15]
```diff
@@ -26,58 +26,59 @@ The operation must be non-expansive, associative, commutative, and have a left i
...
 
 /-- Right identity follows from commutativity and left identity. -/
-@[simp, rocq_alias monoid_right_id]
-theorem op_right_id [MonoidOps op unit] : op a unit ≡ a :=
+@[rocq_alias monoid_right_id]
+theorem op_right_id [MonoidOps op unit] : op a unit = a :=
   op_comm.trans op_left_id
 
 /-- Congruence on the left argument. -/
+@[deprecated "OFE is Leibniz; use `congrArg`/`rw`" (since := "2026-07")]
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/Monoid.lean]: See above

File: Iris/Iris/Algebra/LocalUpdates.lean [hunk 16]
```diff
@@ -26,14 +26,17 @@ variable [CMRA α]
 
 theorem LocalUpdate.id (x : α × α) : x ~l~> x := fun _ _ vx e => ⟨vx, e⟩
 
+@[deprecated "OFE is Leibniz; use `congrArg`/`rw`" (since := "2026-07")]
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/LocalUpdates.lean]: See above

File: Iris/Iris/Algebra/LeibnizSet.lean [hunk 17]
```diff
@@ -55,11 +55,7 @@ theorem DisjointLeibnizSet.exist_set_of_mem [LawfulSet S A] {x : DisjointLeibniz
   | .valid x' => ⟨x', rfl⟩
 
 theorem DisjointLeibnizSet.mem_of_eqv [LawfulSet S A] {a b : DisjointLeibnizSet S}
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/LeibnizSet.lean]: Should probably just delete this lemma

File: Iris/Iris/Algebra/DynReservationMap.lean [hunk 18]
```diff
@@ -277,37 +281,38 @@ instance instUCMRADynReservationMap : UCMRA (DynReservationMap A H) where
         refine .inr fun HK => bb ?_
         refine (mem_iff_of_validN_union (validN_token_of_validN v) i).mpr ?_
         exact .inl HK
-  assoc := fun n => ⟨CMRA.assoc n, CMRA.assoc n⟩
-  comm := fun n => ⟨CMRA.comm n, CMRA.comm n⟩
-  pcore_op_left {x cx} h := by
+  assoc := eq_dist.mpr <| by refine fun _ => ⟨?_, ?_⟩ <;> exact CMRA.assoc.dist
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/DynReservationMap.lean:284]:
```suggestion
  assoc := eq_dist.mpr <| fun _ => ⟨CMRA.assoc.dist, CMRA.assoc.dist⟩
```

File: Iris/Iris/Algebra/DynReservationMap.lean [hunk 19]
```diff
@@ -277,37 +281,38 @@ instance instUCMRADynReservationMap : UCMRA (DynReservationMap A H) where
...
+  comm := eq_dist.mpr <| by refine fun _ => ⟨?_, ?_⟩ <;> exact CMRA.comm.dist
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/DynReservationMap.lean:285]:
```suggestion
  comm := eq_dist.mpr <| fun _ => ⟨CMRA.comm.dist, CMRA.comm.dist⟩ 
```

File: Iris/Iris/Algebra/HeapView.lean [hunk 20]
```diff
@@ -256,33 +254,33 @@ theorem auth_op_frag_valid_total_discrete_iff [IsTotal V] [CMRA.Discrete V]
...
-    · exact valid_of_eqv (fun n => (some_eqv_some.mp Hx n).1) Hv.1
-    · exact Option.valid_of_inc_valid Hv.1 ⟨x.fst, fun n => (some_eqv_some.mp Hx n).1⟩
+    · exact (show dq' = dq from congrArg Prod.fst (some_eqv_some.mp Hx)) ▸ Hv.1
+    · exact Option.valid_of_inc_valid Hv.1 ⟨some x.fst, congrArg (fun p => some p.fst) (some_eqv_some.mp Hx)⟩
   · rcases Hi with ⟨(_|x), Hx⟩
-    · exact inc_of_inc_of_eqv (inc_refl _) (OFE.Equiv.symm fun n => (some_eqv_some.mp Hx n).2)
-    · rcases (⟨x.snd, fun n => (some_eqv_some.mp Hx n).2⟩ : some v1 ≼ some v') with ⟨(_|z), Hz⟩
-      · exact inc_of_inc_of_eqv (inc_refl _) Hz.symm
-      · exists z
+    · rw [show v1 = v' from (congrArg Prod.snd (some_eqv_some.mp Hx)).symm]
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/HeapView.lean]: Split into two tactics, either `obtain`/`rfl` or `suffices`/`exact`

File: Iris/Iris/Algebra/HeapView.lean [hunk 21]
```diff
@@ -593,22 +588,20 @@ theorem update_big_delete (m m' : H V) :
...
   induction m' using LawfulFiniteMap.induction_on with
   | hemp =>
-    rw [bigOpM_frag_empty]
-    refine Update.equiv_left CMRA.comm ?_
-    refine Update.equiv_left UCMRA.unit_left_id.symm ?_
-    refine Update.equiv_left ?_ .id
-    refine OFE.NonExpansive.eqv ?_
-    exact eqv_of_Equiv (fun j => by simp [get?_difference, get?_empty])
+    rw [bigOpM_frag_empty, CMRA.unit_right_id]
+    rw [show (m \ ∅ : H V) = m from eqv_of_Equiv fun j => by simp [get?_difference, get?_empty]]
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/HeapView.lean]: `suffices` is probably better

File: Iris/Iris/Algebra/HeapView.lean [hunk 22]
```diff
@@ -593,22 +588,20 @@ theorem update_big_delete (m m' : H V) :
...
+    rw [← congrArg (CMRA.op _) (BigOpM.bigOpM_insert_eq _ _ Hm2).symm]
+    rw [← congrArg (CMRA.op _) CMRA.comm]
+    rw [CMRA.assoc]
     refine (Update.op IH .id).trans ?_
     refine update_one_delete.trans ?_
-    refine Update.equiv_left ?_ .id
-    refine OFE.NonExpansive.eqv ?_
-    exact eqv_of_Equiv (fun j => by by_cases hjk : k = j
-      <;> simp [get?_difference, get?_delete_eq, get?_delete_ne, get?_insert_eq, get?_insert_ne, hjk])
+    rw [show (m \ Std.insert m2 k v) = delete (m \ m2) k from
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/HeapView.lean]: `suffices`, or something instead of multi-line `rw` argument

File: Iris/Iris/Algebra/HeapView.lean [hunk 23]
```diff
@@ -619,50 +612,48 @@ theorem update_big_replace (m m0 m1 : H V)
...
-        show get? (PartialMap.union m1 m) j = get? (Std.insert (PartialMap.union (delete m1 k) m) k v') j
-        by_cases hjk : k = j
-        · rw [← hjk, get?_insert_eq rfl]; simp [PartialMap.union, get?_merge, Hin]
-          cases get? m k <;> rfl
-        · rw [get?_insert_ne hjk]; simp [PartialMap.union, get?_merge, get?_delete_ne hjk])
-    · refine .trans ?_ (BigOpM.bigOpM_insert_eqv _ _ ?_)
-      · exact ((insert_delete_cancel Hin).symm ▸ .rfl)
-      · exact get?_delete_eq rfl
+    rw [← CMRA.assoc]
+    rw [show (m1 ∪ m) = Std.insert (delete m1 k ∪ m) k v' from
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/HeapView.lean]: Refactor this to not be a `rw` argument.

File: Iris/Iris/Algebra/OFE.lean [hunk 24]
```diff
@@ -19,6 +19,7 @@ class OFE (α : Type _) where
   eq_dist : x = y ↔ ∀ n, Dist n x y
   dist_lt : Dist n x y → m < n → Dist m x y
 
+@[deprecated "OFE is Leibniz; use propositional equality" (since := "2026-07")]
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/OFE.lean]: See above

File: Iris/Iris/Algebra/OFE.lean [hunk 25]
```diff
@@ -703,10 +715,14 @@ instance : OFE (α ⊕ β) where
 #rocq_ignore sum_dist "Inlined in OFE (α ⊕ β) instance"
 
 
-theorem equiv_inl {x y : α} (h : x ≡ y) : (.inl x : α ⊕ β) ≡ .inl y := h
-theorem equiv_inr {x y : β} (h : x ≡ y) : (.inr x : α ⊕ β) ≡ .inr y := h
-theorem equiv_ext_left {x y : α} (h : (.inl x : α ⊕ β) ≡ .inl y) : x ≡ y := h
-theorem equiv_ext_right {x y : β} (h : (.inr x : α ⊕ β) ≡ .inr y) : x ≡ y := h
+omit [OFE α] [OFE β] in
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/OFE.lean]: Can we move these so that we don't need to omit?

File: Iris/Iris/Algebra/OFE.lean [hunk 26]
```diff
@@ -1744,35 +1755,29 @@ def fixpointB [COFE α] [COFE β] [Inhabited α] [Inhabited β]
...
 theorem fixpointA_unique [COFE α] [COFE β] [Inhabited α] [Inhabited β]
-    (fA : α -c> β -n> α) (fB : α -c> β -c> β) (Hp : fA p q ≡ p) (Hq : fB p q ≡ q) :
-    p ≡ (fixpointA fA fB) := by
-  refine Hp.symm.trans ?_
-  apply fixpoint_unique
-  have := ne₂_of_contractive_ne fA
-  refine NonExpansive₂.eqv (f := fA) Hp.symm ?_
+    (fA : α -c> β -n> α) (fB : α -c> β -c> β) (Hp : fA p q = p) (Hq : fB p q = q) :
+    p = (fixpointA fA fB) := by
+  have hq : q = fixpointAB fB p := fixpoint_unique Hq.symm
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/OFE.lean]: Inline this?

File: Iris/Iris/Algebra/View.lean [hunk 27]
```diff
@@ -39,7 +39,7 @@ variable [OFE A] [UCMRA B] {R : ViewRel A B} [IsViewRel R]
 theorem iff_of_dist (Ha : a1 ≡{n}≡ a2) (Hb : b1 ≡{n}≡ b2) : R n a1 b1 ↔ R n a2 b2 :=
   ⟨(mono · Ha Hb.symm.to_incN n.le_refl), (mono · Ha.symm Hb.to_incN n.le_refl)⟩
 
-@[rocq_alias view_rel_proper]
+@[rocq_alias view_rel_proper, deprecated "OFE is Leibniz; use `congrArg`/`rw`" (since := "2026-07")]
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/View.lean]: See above

File: Iris/Iris/Algebra/View.lean [hunk 28]
```diff
@@ -252,33 +255,39 @@ instance : CMRA (View R) where
...
+    rintro rfl
+    rcases x with ⟨xa, xf⟩
+    simp only [Op, View.mk.injEq]
+    exact ⟨CMRA.core_op xa, CMRA.core_op xf⟩
   pcore_idem {_ cx} := by
-    simp only [Pcore, Option.some.injEq, OFE.some_eqv_some]
+    simp only [Pcore, Option.some.injEq]
     rcases cx
     simp only [mk.injEq, and_imp]
     intro H1 H2
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/View.lean]: ```rintro rfl rfl``` instead

File: Iris/Iris/Algebra/View.lean [hunk 29]
```diff
@@ -252,33 +255,39 @@ instance : CMRA (View R) where
...
+      cases cy; simp [g]
     apply pcore_op_mono_of_core_op_mono
     rintro y1 cy y2 ⟨z, Hy2⟩ Hy1
-    have Hle : g y1 ≼ g y2 := ⟨g z, Hy2⟩
-    obtain ⟨_, Hcgy2, x, Hcx⟩ := CMRA.pcore_mono' Hle (Hg_core.mp <| .of_eq Hy1)
-    exact ⟨_, rfl, f x, Hg_core.mpr (Hcgy2 ▸ Hcx)⟩
+    have Hle : g y1 ≼ g y2 := ⟨g z, congrArg g Hy2⟩
+    obtain ⟨_, Hcgy2, x, Hcx⟩ :=
+      CMRA.pcore_mono' Hle (Hg_core.mp Hy1)
+    exact ⟨_, rfl, f x,
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/View.lean]: One line

File: Iris/Iris/Algebra/View.lean [hunk 30]
```diff
@@ -834,13 +835,12 @@ theorem map_compose' [OFE A''] [OFE B''] {R'' : ViewRel A'' B''}
...
-@[rocq_alias view_map_ext]
+@[rocq_alias view_map_ext, deprecated "OFE is Leibniz; use `congrArg`/`rw`" (since := "2026-07")]
 theorem map_ext {f1 f2 : A → A'} {g1 g2 : B → B'} [OFE.NonExpansive f1] [OFE.NonExpansive f2]
     (v : View R) (h1 : ∀ a, f1 a ≡ f2 a) (h2 : ∀ b, g1 b ≡ g2 b) :
-    View.map R' f1 g1 v ≡ View.map R' f2 g2 v := by
-  refine OFE.Equiv.of_eq ?_
-  have hf : f1 = f2 := funext fun a => (h1 a).to_eq
-  have hg : g1 = g2 := funext fun b => (h2 b).to_eq
+    View.map R' f1 g1 v = View.map R' f2 g2 v := by
+  have hf : f1 = f2 := funext fun a => OFE.eq_dist.mpr (h1 a)
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/View.lean]:
```suggestion
  obtain rfl : f1 = f2 := funext fun a => OFE.eq_dist.mpr (h1 a)
  obtain rfl : g1 = g2 := funext fun a => OFE.eq_dist.mpr (h2 b)
  rfl
```

**Review by markusdemedeiros — APPROVED** [review]
The usual nits. Read them, but I'll leave the final say to you on if you want the edits. 

I'd suggest removing the deprecated stuff now, or in a follow-up PR. No need to keep that around.

**Comment by Kaptch** [comment]
Thanks, @markusdemedeiros! I'll remove the deprecated things and do a final minor pass over proofs. 
I'll later do a more involved pass in a separate PR to see where it's possible to significantly shorten stuff by rewriting within 1-2 weeks.
